US05821240
(50) 4-[(3-Chloro-4-fluorophenyl)amino]-6-[(1-cyano-4-piperidinyl)amino]pyrimido[5,4-d]pyrimidine
Prepared from 4-[(3-chloro-4-fluorophenyl)amino]-6-[1-tert-butyloxycarbonyl-4-piperidinylamino]pyrimido[5,4-d]pyrimidine by reaction with trifluoroacetic acid and subsequent reaction with cyanogen bromide. Melting point: 245°-247° C.; Rf : 0.59 (silica gel; petroleum ether/ethyl acetate/methanol=10:10:3)

reactant | 4-[(3-chloro-4-fluorophenyl)amino]-6-[1-tert-butyloxycarbonyl-4-piperidinylamino]pyrimido[5,4-d]pyrimidine | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)C=NC(=N2)NC2CCN(CC2)C(=O)OC(C)(C)C | C22H25ClFN7O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | cyanogen bromide | N#CBr | CBrN
product | 4-[(3-Chloro-4-fluorophenyl)amino]-6-[(1-cyano-4-piperidinyl)amino]pyrimido[5,4-d]pyrimidine | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)C=NC(=N2)NC2CCN(CC2)C#N | C18H16ClFN8
